US05389659
Phenylmethoxy-2,4-octandione
2-Hexanone (26.7 g) was added dropwise over 5 min at room temperature to a stirred suspension of sodium amide (10.4 g) in dry ether (290 ml) under nitrogen. The reaction mixture was stirred for 13 min. and a solution of methyl phenylmethoxyacetate (24.0 g) in dry ether (40 ml) was added dropwise over 12 min. The mixture was then heated at reflux for 3 h, cooled, and then poured into ice (400 g) and 2N HC1 (200 ml). The aqueous phase was extracted with ether (2×350 ml) and the combined etheral solution washed with 8% sodium bicarbonate solution (2×250 ml), water (200 ml) and brine (200 ml), then dried and evaporated to leave a yellow liquid (35.8 g). This was purified by column chromatography on silica gel eluting with System A (2:98) to give the title compound as a yellow oil (10.95 g).

reactant | 2-Hexanone | 26.7 g | CC(CCCC)=O | C6H12O
reactant | sodium amide | 10.4 g | [NH2-].[Na+]
reactant | methyl phenylmethoxyacetate | 24.0 g | C1(=CC=CC=C1)COCC(=O)OC | C10H12O3
solvent | ether | 290 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | Phenylmethoxy-2,4-octandione | 35.8 g | C1(=CC=CC=C1)COCC(CC(CCCC)=O)=O | C15H20O3
